US05612340
2.5 g (15.7 mmol) of 3-acetyl-1H-indole are dissolved in 100 ml of dimethylformamide, and 0.41 g (15.7 mmol) of sodium hydride and 4.0 g (16 mmol) of N-(2-bromo-ethyl)-phthalimide are added. The reaction mixture is stirred for 14 h at RT and for 3 h at 50°. 20 ml of water are added and the product is isolated by filtration. After drying at 50° under HV, N-[2-(3-acetyl-1H-indol-1-yl)-ethyl]-1H-isoindole-1,3(2H)-dione is obtained; 1H-NMR (CDCl3): 2.5 (3H,s), 4.1 (2H,t), 4.45 (2H,t), 7.2-7.9 (8H,m), 8.35 (1H n).

reactant | 3-acetyl-1H-indole | 15.7 mmol, 2.5 g | C(C)(=O)C1=CNC2=CC=CC=C12 | C10H9NO
reactant | sodium hydride | 15.7 mmol, 0.41 g | [H-].[Na+]
reactant | N-(2-bromo-ethyl)-phthalimide | 16 mmol, 4.0 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | water | 20 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-[2-(3-acetyl-1H-indol-1-yl)-ethyl]-1H-isoindole-1,3(2H)-dione | C(C)(=O)C1=CN(C2=CC=CC=C12)CCN1C(C2=CC=CC=C2C1=O)=O | C20H16N2O3
